US06723735B1
A cooled (−10° C.) suspension of 3-[6-(furan-3-yl)imidazo[4,5-b]pyridin-3-yl]phenol (1.0 g, 3.6 mmol) in dichloromethane (15 ml) was treated with pyridine (870 μl, 11 mmol) then with trifluoromethanesulphonic anhydride (730 μl, 4.3 mmol) and stirred to ambient temperature over 30 minutes. Thin layer chromatography (3% triethylamine in ethyl acetate) indicated complete conversion to product. The reaction was partitioned between dichloromethane and 0.1N hydrochloric acid, the organics were washed with water, brine, dried over anhydrous sodium sulphate, filtered and evaporated to give trifluoromethanesulphonic acid 3-[6-(furan-3-yl)imidazo[4,5-b]pyridin-3-yl]phenyl ester as a brown solid (1.5 g, 100%). Used without further purification; m/z (ES+) 410 (M++H).

reactant | 3-[6-(furan-3-yl)imidazo[4,5-b]pyridin-3-yl]phenol | 3.6 mmol, 1.0 g | O1C=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=CC2)O | C16H11N3O2
reactant | pyridine | 11 mmol, 870 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulphonic anhydride | 4.3 mmol, 730 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trifluoromethanesulphonic acid 3-[6-(furan-3-yl)imidazo[4,5-b]pyridin-3-yl]phenyl ester | 1.5 g, 100% | O1C=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F | C17H10F3N3O4S
